US09193693B2
Step 5. 2-Phenyl-3-(4-(3-(trifluoromethyl)pyridin-2-yl)piperidin-1-yl)quinoxaline-6-carboxylic acid
Into a 50-mL round-bottom flask, was placed a solution of methyl 2-phenyl-3-(4-(3-(trifluoromethyl)pyridin-2-yl)piperidin-1-yl)quinoxaline-6-carboxylate (236.2 mg, 0.46 mmol, 1.00 equiv, 95%) in methanol (15 mL). This was followed by the addition of a solution of sodium hydroxide (91.2 mg, 5.00 equiv) in water (2 mL), which was added dropwise with stirring. The resulting solution was stirred overnight at 50° C. in an oil bath. The pH value of the solution was adjusted to 3-4 with 1N hydrochloric acid. The resulting mixture was concentrated under vacuum. The resulting mixture was washed with methanol. This resulted in 105.4 mg (48%) of 2-phenyl-3-(4-(3-(trifluoromethyl)pyridin-2-yl)piperidin-1-yl)quinoxaline-6-carboxylic acid as a yellow solid.

reactant | methyl 2-phenyl-3-(4-(3-(trifluoromethyl)pyridin-2-yl)piperidin-1-yl)quinoxaline-6-carboxylate | 0.46 mmol, 236.2 mg, 1.00 equiv | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=NC=CC=C1C(F)(F)F)C(=O)OC | C27H23F3N4O2
reactant | sodium hydroxide | 91.2 mg, 5.00 equiv | [OH-].[Na+]
reactant | hydrochloric acid | 1N | Cl | ClH
solvent | methanol | 15 mL | CO | CH4O
solvent | water | 2 mL | O | H2O
product | 2-Phenyl-3-(4-(3-(trifluoromethyl)pyridin-2-yl)piperidin-1-yl)quinoxaline-6-carboxylic acid | C1(=CC=CC=C1)C1=NC2=CC=C(C=C2N=C1N1CCC(CC1)C1=NC=CC=C1C(F)(F)F)C(=O)O | C26H21F3N4O2
